US08076516B2
To a solution of (S)-4-benzyl-3-((2R,3S)-3-(3-bromophenyl)-2-methyl-3-(trimethylsilyloxy)propanoyl)oxazolidin-2-one in anhydrous THF is added a solution of LiBH4 in THF under argon. The reaction mixture is stirred for 18 h at room temperature and a saturated aqueous solution of NH4Cl is slowly added followed by MTBE. The mixture is stirred for 15 mins, layers are separated, organic layer is washed with brine, dried over anhydrous MgSO4, filtered and concentrated under reduced pressure. The residue is purified by flash chromatography (5 to 40% EtOAc/hexane gradient) to give (2S,3S)-3-(3-bromophenyl)-2-methyl-3-(trimethylsilyloxy)propan-1-ol.

reactant | (S)-4-benzyl-3-((2R,3S)-3-(3-bromophenyl)-2-methyl-3-(trimethylsilyloxy)propanoyl)oxazolidin-2-one | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C([C@@H]([C@H](O[Si](C)(C)C)C1=CC(=CC=C1)Br)C)=O | C23H28BrNO4Si
reactant | LiBH4 | [Li+].[BH4-]
reactant | NH4Cl | [NH4+].[Cl-]
reactant | MTBE | CC(C)(C)OC | C5H12O
solvent | THF | C1CCOC1 | C4H8O
product | (2S,3S)-3-(3-bromophenyl)-2-methyl-3-(trimethylsilyloxy)propan-1-ol | BrC=1C=C(C=CC1)[C@H]([C@H](CO)C)O[Si](C)(C)C | C13H21BrO2Si
